US04060615
N-(Cyclohexylcarbonyl)piperazine (5.9 g., 0.03 mole) and 2-chloro-4-amino-6,7-dimethoxyquinazoline (7.2 g., 0.03 mole) are reacted according to the procedure of Example 1(a). The crude product crystallized from methanol affords analytically pure 4-amino-2-[4-(cyclohexylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline, m.p. 223°-225° C., resolidifying and remelting at 248.0°-250.0° C. (corr.)

reactant | N-(Cyclohexylcarbonyl)piperazine | 0.03 mole, 5.9 g | C1(CCCCC1)C(=O)N1CCNCC1 | C11H20N2O
reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 0.03 mole, 7.2 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
product | 4-amino-2-[4-(cyclohexylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCCCC1 | C21H29N5O3
